US07994205B2
N-methyl-1-{1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrazol-3-yl}methanamine Hydrochloride
To a solution of 1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrazole-3-carbaldehyde (220 mg) and methylammonium chloride (455 mg) in methanol (5 mL) was added sodium borohydride (127 mg), and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→0:1). The obtained colorless oil was dissolved in ethyl acetate (5 mL), 4 mol/L hydrogen chloride-ethyl acetate solution (0.5 mL) was added, and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the title compound as a colorless solid (yield 70 mg, 27%).

reactant | 1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrazole-3-carbaldehyde | 220 mg | CC1=CC=C(C=C1)S(=O)(=O)N1N=C(C=C1C1=CC=CC=C1)C=O | C17H14N2O3S
reactant | methylammonium chloride | 455 mg | [Cl-].C[NH3+]
reactant | sodium borohydride | 127 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | N-methyl-1-{1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrazol-3-yl}methanamine Hydrochloride | yield 70 mg, 27% | Cl.CNCC1=NN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C18H19N3O2S.ClH/c1-14-8-10-17(11-9-14)24(22,23)21-18(12-16(20-21)13-19-2)15-6-4-3-5-7-15;/h3-12,19H,13H2,1-2H3;1H
